US07429607B2
a. 1-(4′-fluoronaphth-1-yl)-3-methylbutan-1-one
To an ice/salt cooled solution of 1-fluoronaphthalene (5.1 g) in anhydrous dichloromethane (20 ml) was added aluminium chloride (5.6 g). After 5 minutes, a solution of isovaleryl chloride (4.2 g) in anhydrous dichloromethane (5 ml) was added dropwise over 20 minutes. The mixture was allowed to warm to room temperature overnight, then added cautiously to a vigorously stirred mixture of ice water and dichloromethane. The organic layer was separated, clarified with methanol, washed with brine, dried with sodium sulphate, filtered and evaporated in vacuo. The title compound (7 g) was obtained following silica gel column chromatography of the residue in 20-40% dichloromethane in petroleum ether.

reactant | 1-fluoronaphthalene | 5.1 g | FC1=CC=CC2=CC=CC=C12 | C10H7F
reactant | aluminium chloride | 5.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isovaleryl chloride | 4.2 g | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(4′-fluoronaphth-1-yl)-3-methylbutan-1-one | 7 g | FC1=CC=C(C2=CC=CC=C12)C(CC(C)C)=O | C15H15FO
